US08283326B2
4-Iodo-2-(4-methoxy-benzyl)-1-methyl-benzene
To a cooled (0 to −5° C.), stirred suspension of 4-amino-2-(4-methoxy-benzyl)-1-methyl-benzene (18.3 g) in water (70 mL) and concentrated hydrochloric acid (20 mL) is added a solution of sodium nitrite (5.8 g) in water (20 mL). The suspension is stirred until homogenous and then a solution of potassium iodide (14 g) in water (20 mL) is added. The cooling bath is removed and the solution is stirred at 40° C. for 1 h and at 70° C. for another 1.5 h. After cooling to ambient temperature, aqueous sodium thiosulfate solution is added and the resulting solution is extracted with ethyl acetate. The combined extracts are dried (sodium sulphate) and the solvent is evaporated. The residue is purified by chromatography on silica gel (cyclohexane/ethyl acetate 19.1).

reactant | 4-amino-2-(4-methoxy-benzyl)-1-methyl-benzene | 18.3 g | NC1=CC(=C(C=C1)C)CC1=CC=C(C=C1)OC | C15H17NO
reactant | sodium nitrite | 5.8 g | N(=O)[O-].[Na+]
reactant | potassium iodide | 14 g | [I-].[K+]
solvent | water | 70 mL | O | H2O
solvent | hydrochloric acid | 20 mL | Cl | ClH
solvent | water | 20 mL | O | H2O
solvent | water | 20 mL | O | H2O
product | 4-Iodo-2-(4-methoxy-benzyl)-1-methyl-benzene | IC1=CC(=C(C=C1)C)CC1=CC=C(C=C1)OC | C15H15IO
